US07365068B2
A mixture of 3-Nitro-phenol (3.5 g, 25 mmole), 4-Bromomethyl-biphenyl (4.94 g, 20 mmole) and Potassium carbonate (3.8 g, 30 mmole) in 75 mL of acetone is stirred for 16 hr at room temperature. After removal of the solvent, the residue is taken up in ethyl acetate, washed with 1 N NaOH and brine, dried over Na2SO4, and concentrated to yield a solid. The solid is washed with methanol and dried under vacuum to afford 4-(3-Nitro-phenoxymethyl)-biphenyl.

reactant | 3-Nitro-phenol | 25 mmole, 3.5 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | 4-Bromomethyl-biphenyl | 20 mmole, 4.94 g | BrCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Br
reactant | Potassium carbonate | 30 mmole, 3.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 75 mL | CC(=O)C | C3H6O
product | 4-(3-Nitro-phenoxymethyl)-biphenyl | [N+](=O)([O-])C=1C=C(OCC2=CC=C(C=C2)C2=CC=CC=C2)C=CC1 | C19H15NO3
